US06818787B2
Piperidinium 1-{(1-Methyl-3-Oxo-But-1-enyl)aminomethyl}-1-Cyclohexane Acetate (124)
2,4-pentanedione (103 μL, 1 mmol), gabapentin (171 mg, 1 mmol), and piperidine (99 μL, 1 mmol) were mixed in anhydrous methanol (10 mL). The resulting mixture was heated under reflux for 4 h. Removal of the solvent under reduced pressure gave the title compound with purity greater than 90%. 1H NMR (CDCl3, 400 MHz): δ 1.34-1.62 (m, 12H), 1.71 (m, 4H), 1.94 (s, 3H), 1.96 (s, 3H), 2.26 (s, 2H), 2.98 (m, 4H), 3.38 (d, J=6 Hz, 2H), 4.90 (s, 1H), 5.20 (s, br, 2H), 8.64 (t, J=6 Hz, 1H). MS (ESI) m/z 252.35 (M−H+).

reactant | 2,4-pentanedione | 1 mmol, 103 μL | CC(CC(C)=O)=O | C5H8O2
reactant | gabapentin | 1 mmol, 171 mg | C1CCC(CC1)(CC(=O)O)CN | C9H17NO2
reactant | piperidine | 1 mmol, 99 μL | N1CCCCC1 | C5H11N
solvent | methanol | 10 mL | CO | CH4O
product | Piperidinium 1-{(1-Methyl-3-Oxo-But-1-enyl)aminomethyl}-1-Cyclohexane Acetate | CC(=CC(C)=O)NCC1(CCCCC1)CC(=O)[O-].[NH2+]1CCCCC1 | InChI=1S/C14H23NO3.C5H11N/c1-11(8-12(2)16)15-10-14(9-13(17)18)6-4-3-5-7-14;1-2-4-6-5-3-1/h8,15H,3-7,9-10H2,1-2H3,(H,17,18);6H,1-5H2
